US04814329
S-(5-Benzyl-2-benzimidazolyl)-thioacetic acid ethyl ester
0.46 g (20 mmoles) of metal sodium are dissolved in 40 ml of ethanol. To the ethylate 4.8 g (20 mmoles) of 5-benzyl-benzimidazoline-2-thione are added and 2.4 ml of bromoacetic acid ethyl ester are added dropwise at room temperature. After 4 hours boiling the salt is filtered off, the mother liquor is evaporated and 60 ml of petrol-ether are added to the distillation residue. Thus 7.23 g of crude title product are isolated. This is purified by suspending in water. Thus 6.33 g (97.1%) of title compound melting at a temperature of 103° C. are obtained, which can be crystallized from methanol.

reactant | sodium | [Na] | Na
reactant | 5-benzyl-benzimidazoline-2-thione | 20 mmoles, 4.8 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | bromoacetic acid ethyl ester | 2.4 ml | C(C)OC(CBr)=O | C4H7BrO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | S-(5-Benzyl-2-benzimidazolyl)-thioacetic acid ethyl ester | 6.33 g, 97.1% | C(C)OC(C)=SC=1NC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C18H20N2OS
